US06924400B2
(k) [4-(tert-Butyldimethylsilanyloxymethyl)-2-hydroxymethylphenyl]methanol
17.8 g (469 mmol) of lithium aluminum hydride are placed in 800 ml of ethyl ether in a round-bottomed flask and under a stream of nitrogen. At 0° C., a solution of 66.4 g (196 mmol) of dimethyl 4-(tert-butyldimethylsilanyloxymethyl)phthalate in 200 ml of ether and 100 ml of THF is added dropwise. The reaction medium is stirred at 0° C. for 2 hours. 18 ml of water, 18 ml of 15% sodium hydroxide solution and then 54 ml of water are added very slowly. The precipitate formed is filtered off and rinsed with ether, and the filtrate is evaporated. 52 g (94%) of the expected product are obtained in the form of a colorless oil.

reactant | lithium aluminum hydride | 469 mmol, 17.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dimethyl 4-(tert-butyldimethylsilanyloxymethyl)phthalate | 196 mmol, 66.4 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C17H26O5Si
reactant | water | 18 ml | O | H2O
reactant | sodium hydroxide | 18 ml | [OH-].[Na+]
reactant | water | 54 ml | O | H2O
solvent | ethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | [4-(tert-Butyldimethylsilanyloxymethyl)-2-hydroxymethylphenyl]methanol | 52 g, 94% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C=C1)CO)CO | C15H26O3Si
